US08183239B2
2-Ethyl-N-{3-fluoro-4-[4-(1-hydroxy-1-phenyl-pentyl)-piperidin-1-yl]-phenyl}-butyramide
To a solution of n-BuLi (1 mL, 2.5 M in hexanes) in THF (10 mL) at −78° C., N-[4-(4-benzoyl-piperidin-1-yl)-3-fluoro-phenyl]-2-ethyl-butyramide (200 mg, 0.50 mmol) in THF (10 mL) was added. After 10 min, the mixture was warmed to 25° C. and diluted with satd. aq. NaHCO3 (10 mL). The mixture was extracted with EtOAc, and the organic layer was concentrated and purified by PTLC to provide the title compound (130 mg, 57%). MS: 455.4. 1H NMR (CDCl3): 7.42-7.15 (m, 7H), 6.84 (t, J=9.1, 1H), 3.42 (d, J=11.7, 1H), 3.32 (d, J=11.7, 1H), 2.61-2.45 (m, 2H), 2.01-1.82 (m, 4H), 1.78-1.62 (m, 3H), 1.61-1.41 (m, 6H), 1.32-1.15 (m, 4H), 0.98-0.80 (m, 9H).

reactant | n-BuLi | 2.5 M, 1 mL | [Li]CCCC
reactant | N-[4-(4-benzoyl-piperidin-1-yl)-3-fluoro-phenyl]-2-ethyl-butyramide | 0.50 mmol, 200 mg | C(C1=CC=CC=C1)(=O)C1CCN(CC1)C1=C(C=C(C=C1)NC(C(CC)CC)=O)F | C24H29FN2O2
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Ethyl-N-{3-fluoro-4-[4-(1-hydroxy-1-phenyl-pentyl)-piperidin-1-yl]-phenyl}-butyramide | 130 mg, 57% | C(C)C(C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)C(CCCC)(C1=CC=CC=C1)O)F)CC | C28H39FN2O2
